US07259183B2
Preparation of [3-chloro-4-(1-methylcyclopropyl)-benzyl]-[2-(3-trifluoromethyl phenyl)-ethyl]-amine
The title compound was synthesized in analogy to (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine (described in example S53) using 3-chloro-4-(1-methylcyclopropyl)-benzaldehyde (86 mg, 0.44 mmol), 2-(3-trifluoromethylphenyl)-ethylamine (84 mg, 0.44 mmol) and sodium borohydride (25 mg, 0.66 mmol). The desired product (145 mg, 89%) was isolated without further purification as a colorless oil. MS (ISP) 368.3 (M+H)+.

reactant | (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine | C1(CC1)C1=CC=C(CNCCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C19H19F4N
reactant | 3-chloro-4-(1-methylcyclopropyl)-benzaldehyde | 0.44 mmol, 86 mg | ClC=1C=C(C=O)C=CC1C1(CC1)C | C11H11ClO
reactant | 2-(3-trifluoromethylphenyl)-ethylamine | 0.44 mmol, 84 mg | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
reactant | sodium borohydride | 0.66 mmol, 25 mg | [BH4-].[Na+]
product | [3-chloro-4-(1-methylcyclopropyl)-benzyl]-[2-(3-trifluoromethyl phenyl)-ethyl]-amine | 145 mg, 89% | ClC=1C=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=CC1C1(CC1)C | C20H21ClF3N
